2170-10-31 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   RSBI favorable.  Now on low PSV.
   Weaning sedation.
   CVP= 2 cm H2O
   Remains on vasopressor  this AM, although overall weaning.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2170-10-30**] 05:15 PM
   Aztreonam - [**2170-10-31**] 12:23 AM
   Vancomycin - [**2170-10-31**] 08:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-10-30**] 08:43 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-10-31**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.2
   HR: 71 (70 - 77) bpm
   BP: 128/53(71) {83/38(53) - 128/75(81)} mmHg
   RR: 0 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   CVP: 2 (2 - 15)mmHg
   Total In:
                                                                  3,273 mL
                                                                    543 mL
   PO:
   TF:
   IVF:
                                                                    273 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    840 mL
   Urine:
                                                                    570 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,303 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/77.[**Numeric Identifier 253**]/25/3
   Ve: 8.9 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : scant, scattered, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice, healed fissure right
   heel
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   267 K/uL
   119 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   30 mg/dL
   98 mEq/L
   135 mEq/L
   24.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2170-10-31**]  03:33 AM
                             [**2170-10-31**]  07:08 AM
   WBC
   8.0
   Hct
   24.2
   Plt
   267
   Cr
   1.5
   TCO2
   31
   Glucose
   119
   Other labs: PT / PTT / INR:36.9/59.7/3.8, ALT / AST:15/20, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:91.3 %, Lymph:5.4 %, Mono:2.9 %,
   Eos:0.3 %, LDH:182 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   75 [**Hospital 5332**] nursing home resident, COPD, now with CAP/HCAP and sepsis.
   RESPIRATORY FAILURE -- multifactorial, attributed to pneumonia and
   component of pulmomary edema (cardiogenic or non-cardiogenic).
   Pneumonia may be precipitant.  Continue mechanical ventilation.
   Monitor ABG, SaO2.
   COPD -- optimize medications, including steroids, antimicrobials.
   PULMONARY INFILTRATES -- suspect attributable predominately to
   pneumonia , and component of CHF (underlying cardiomyopathy).
   Empirical antimicrobials.  Monitor CXR.
   HYPOTENSION -- attributed to sepsis, hypovolemia.  [**Month (only) 8**] be component of
   adrenal insufficiency (stress dose steroids).  s/p fluid
   resussitation.  Maintain vasopressor, aim MAP >60 mmHg.
   SEPSIS -- concerns include pneumonia, line-related infection (right
   PICC).  Evaluation in progress (sputum, blood, urine, stool).  Continue
   supportive care.  Would d/c PICC line.
   CHF -- underlying cardiomyopathy, EF 15-25 %.  Monitor for evidence for
   overt CHF.
   FLUIDS -- net volume expanded following resussitation.  Plan monitor
   I/O, maintain balance.  IV fluid bolus.
   COAGULOPATHY -- rising INR while holding coumadin, likely reflect
   drug-effect (ex. Levofloxicin)
   h/o PULMONARY EMBOLI -- continue chronic anticoagulation once INR in
   therapeutic range.
   NUTRITIONAL SUPPORT -- initiate TF if remains intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-30**] 06:21 PM
   PICC Line - [**2170-10-30**] 06:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-11-01 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Persistent hypotension, remains on vasopressor.
   Discontinued sedatives this AM, now on
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2170-10-30**] 05:15 PM
   Vancomycin - [**2170-11-1**] 07:33 AM
   Aztreonam - [**2170-11-1**] 10:03 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2170-10-31**] 07:27 PM
   Pantoprazole (Protonix) - [**2170-10-31**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-11-1**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 70 (70 - 87) bpm
   BP: 109/51(62) {77/21(33) - 114/56(62)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 85.5 kg (admission): 80 kg
   CVP: 13 (3 - 310)mmHg
   Total In:
                                                                    827 mL
                                                                    715 mL
   PO:
   TF:
   IVF:
                                                                    687 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    600 mL
   Urine:
                                                                  1,760 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -933 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 577 (385 - 577) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   299 K/uL
   119 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   35 mg/dL
   101 mEq/L
   137 mEq/L
   24.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2170-10-31**]  03:33 AM
                             [**2170-10-31**]  07:08 AM
                             [**2170-11-1**]  04:33 AM
   WBC
   8.0
   10.7
   Hct
   24.2
   24.9
   Plt
   267
   299
   Cr
   1.5
   1.5
   TCO2
   31
   Glucose
   119
   119
   Other labs: PT / PTT / INR:63.1/58.3/7.2, ALT / AST:15/20, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:91.7 %, Lymph:4.8 %, Mono:3.5 %,
   Eos:0.0 %, LDH:182 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   75 [**Hospital 5332**] nursing home resident, COPD, now with CAP/HCAP and sepsis.
   RESPIRATORY FAILURE -- multifactorial, attributed to pneumonia and
   component of pulmomary edema (cardiogenic or non-cardiogenic).
   Pneumonia may be precipitant.  Continue mechanical ventilation.
   Monitor ABG, SaO2.
   COPD -- optimize medications, including steroids, antimicrobials.
   PULMONARY INFILTRATES -- suspect attributable predominately to
   pneumonia , and component of CHF (underlying cardiomyopathy).
   Empirical antimicrobials.  Monitor CXR.
   HYPOTENSION -- attributed to sepsis, hypovolemia, contribution of
   PEEP.  [**Month (only) 8**] be component of adrenal insufficiency (stress dose
   steroids).  s/p fluid resussitation.  Maintain vasopressor, aim MAP >60
   mmHg.
   SEPSIS -- concerns include pneumonia, line-related infection (right
   PICC).  Evaluation in progress (sputum, blood, urine, stool).  Continue
   supportive care.  Would d/c PICC line.
   CHF -- underlying cardiomyopathy, EF 15-25 %.  Monitor for evidence for
   overt CHF.
   FLUIDS -- net volume expanded following resussitation.  Plan monitor
   I/O, maintain balance.  IV fluid bolus as needed to maintain BP.
   COAGULOPATHY -- rising INR while holding coumadin, likely reflect
   nutrition and drug-effect (ex. Levofloxicin).  Consider FFP (or
   coumadin) if INR continues to rise.  Consider substituting
   Levofloxicin.  Monitor coags.
   h/o PULMONARY EMBOLI -- continue chronic anticoagulation once INR in
   therapeutic range.
   NUTRITIONAL SUPPORT -- initiate TF if remains intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-30**] 06:21 PM
   PICC Line - [**2170-10-30**] 06:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   Favorable RSBI.  Good SBT trial.  Extubated in afternoon.  Tolerating
   extubation.  Reasonable cough.  Maintaining airway and adequeate  SaO2.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2170-11-1**] 17:59 ------

2170-11-02 10:34:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   Somewhat aggitated overnight, self d/c'd NGT, pulling at central line.
   Received Ativan with good response.
   This AM, awake, oriented, appropriate.
   No hemodynamic compromise.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2170-10-30**] 05:15 PM
   Levofloxacin - [**2170-11-1**] 12:27 PM
   Aztreonam - [**2170-11-2**] 03:05 AM
   Vancomycin - [**2170-11-2**] 08:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-11-1**] 08:41 PM
   Lorazepam (Ativan) - [**2170-11-2**] 03:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-11-2**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 103 (70 - 103) bpm
   BP: 118/88(95) {90/36(37) - 121/88(95)} mmHg
   RR: 21 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 85.5 kg (admission): 80 kg
   CVP: 10 (7 - 318)mmHg
   Total In:
                                                                  1,961 mL
                                                                    250 mL
   PO:
   TF:
   IVF:
                                                                  1,911 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    670 mL
   Urine:
                                                                  1,265 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (473 - 473) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   246 K/uL
   127 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   32 mg/dL
   100 mEq/L
   134 mEq/L
   25.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2170-10-31**]  03:33 AM
                             [**2170-10-31**]  07:08 AM
                             [**2170-11-1**]  04:33 AM
                             [**2170-11-2**]  03:49 AM
   WBC
   8.0
   10.7
   8.7
   Hct
   24.2
   24.9
   25.5
   Plt
   [**Telephone/Fax (3) 9807**]
   Cr
   1.5
   1.5
   1.5
   TCO2
   31
   Glucose
   119
   119
   127
   Other labs: PT / PTT / INR:36.7/46.4/3.8, ALT / AST:15/20, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:91.2 %, Lymph:5.0 %, Mono:3.6 %,
   Eos:0.2 %, LDH:182 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   75 [**Hospital 5332**] nursing home resident, COPD, now with CAP/HCAP and sepsis.
   RESPIRATORY FAILURE -- multifactorial, attributed to pneumonia and
   component of pulmomary edema (cardiogenic or non-cardiogenic).
   Pneumonia may be precipitant.  Stable following extubation.  Monitor
   ABG, SaO2.
   COPD -- optimize medications, including steroids, antimicrobials.
   PULMONARY INFILTRATES -- suspect attributable predominately to
   pneumonia , and component of CHF (underlying cardiomyopathy).
   Empirical antimicrobials.  Monitor CXR.
   HYPOTENSION -- Resolved.  Responded to iv fluid bolus yesterday,
   allowing discontinuation of vasoopressor.  Attributed to sepsis,
   hypovolemia, contribution of PEEP.  [**Month (only) 8**] be component of adrenal
   insufficiency (stress dose steroids).  s/p fluid resussitation.
   Maintain vasopressor, aim MAP >60 mmHg.
   SEPSIS -- resolved.
   ADRENAL INSUFFICIENCY -- taper steroids to baseline dose.
   CHF -- underlying cardiomyopathy, EF 15-25 %.  Monitor for evidence for
   overt CHF.
   FLUIDS -- net volume expanded following resussitation.  Plan monitor
   I/O, maintain balance.  IV fluid bolus as needed to maintain BP.  D/C
   central line, maintain PICC.
   COAGULOPATHY -- improved INR following vitamin K and while holding
   coumadin; elevation  likely reflect nutrition and drug-effect (ex.
   Levofloxicin).  Consider FFP (or coumadin) if INR continues to rise.
   Consider substituting Levofloxicin.  Monitor coags.
   h/o PULMONARY EMBOLI -- continue chronic anticoagulation once INR in
   therapeutic range.
   NUTRITIONAL SUPPORT -- initiate TF if remains intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-10-30**] 06:21 PM
   PICC Line - [**2170-10-30**] 06:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-11-05 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Transfused 2 units PRBC
   -Hypokalemia --> got 40 meq in a.m., and 60 meq in p.m.  Ordered
   additional 20 meq IV potassium toward morning
   -changed lasix from gtt to 40 mg IV BID
   -Tigecycline and colistin sensitivitie still pending
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-2**] 08:19 AM
   Aztreonam - [**2170-11-3**] 10:30 AM
   Meropenem - [**2170-11-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-11-4**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-5**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 73 (70 - 80) bpm
   BP: 162/74(98) {61/52(42) - 170/84(104)} mmHg
   RR: 23 (19 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 83.5 kg (admission): 80 kg
   Height: 70 Inch
           Total In:
                                                                  3,986 mL
                                                                  1,095 mL
   PO:
                                                                  3,000 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    706 mL
                                                                    205 mL
   Blood products:
                                                                    280 mL
                                                                    350 mL
   Total out:
                                                                  4,490 mL
                                                                    856 mL
   Urine:
                                                                  4,490 mL
                                                                    856 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -504 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   Gen: alert and oriented x3, lying comfortably in bed
   Lungs: diffuse rhonchi (mild) L>R.
   CV: regular rate and rhythm
   Abdomen: BS+, soft.
   Ext: No C/C/E.
   Labs / Radiology
   181 K/uL
   8.3 g/dL
   110 mg/dL
   1.3 mg/dL
   37 mEq/L
   3.8 mEq/L
   37 mg/dL
   97 mEq/L
   139 mEq/L
   27.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2170-10-31**]  03:33 AM
                             [**2170-10-31**]  07:08 AM
                             [**2170-11-1**]  04:33 AM
                             [**2170-11-2**]  03:49 AM
                             [**2170-11-2**]  10:23 PM
                             [**2170-11-3**]  03:35 AM
                             [**2170-11-4**]  03:04 AM
                             [**2170-11-4**]  12:25 PM
                             [**2170-11-4**]  11:32 PM
                             [**2170-11-5**]  05:23 AM
   WBC
   8.0
   10.7
   8.7
   17.8
   14.2
   8.1
   7.5
   Hct
   24.2
   24.9
   25.5
   27.4
   26.0
   22.8
   22.7
   24.0
   27.0
   Plt
   [**Telephone/Fax (2) 9854**]
   181
   Cr
   1.5
   1.5
   1.5
   1.4
   1.5
   1.3
   TCO2
   31
   Glucose
   119
   119
   127
   118
   129
   110
   Other labs: PT / PTT / INR:19.5/36.8/1.8, ALT / AST:15/20, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:91.2 %, Lymph:5.0 %, Mono:3.6 %,
   Eos:0.2 %, LDH:182 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   ASSESSMENT AND PLAN:
   Mr. [**Known lastname **] is a 75 year-old gentleman with systolic CHF (EF 15-25%) s/p
   ICD, a-fib s/p DCCV x2 and AVN ablation, hx PE on Coumadin,who presents
   with respiratory distress, fevers and cough due to MDR-klebsiella
   pneumonia potentially perpetuating CHF exacerbation.
   1. MULTIDRUG RESISTANT KLEBSIELLA PNA
 Sputum grew Klebsiella
   sensitive only to meropenem and amikacin.
   --- continue MEROPENEM as bug sensitive
   --- guiafenesin and suctioning
   --- follow-up pending cultures and sensitivies
   --- chest PT
   2. HYPERTENSION- Holding BP meds in the setting of recent shock.
   --- on furosemide, losartan
   --- continue abx tx
   3. ADRENAL INSUFFICIENCY- chronic problem, for which he is on
   prednisone as outpatient.
   --- continue hydrocortisone 50 mg q8 h IV
   --- taper hydrocort to home dose eventually
   --- monitor and replete electrolytes
   4. SUPRATHERAPEUTIC INR
 Now in therapeutic range
   -- continue to hold coumadin for now and re-assess INR in the AM as to
   when to re-start anticoagulation.
   -- will have to modify anticoagulation regimen given poor nutritional
   status
   5. CHF- EF 25% on most recent TTE, holding BB due to hypotension and
   use of pressor.
   --- continue losartan, lipitor, digoxin
   6. ANEMIA
 Patient has acute on chronic anemia. Concern is for acute
   blood loss.
   --- active T+S
   --- transfuse to Hct goal 25
   --- trend Hct
   ICU Care
   Nutrition: regular, heart healthy diet
   Glycemic Control:
   Lines:
   PICC Line - [**2170-10-30**] 06:22 PM
   Prophylaxis:
   DVT:  venodynes
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (no compression, CPR) DNI (for long periods of time,
   short-term intubation OK) as confirmed w/ daughter who is HCP
   Disposition: ICU

2170-11-05 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 y.o. man with PNA and respiratory failure
   24 Hour Events:
   Continues extubated
   Transfused 2 u pRBCs, Hct 24 to 27
                                            History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2170-11-3**] 10:30 AM
   Meropenem - [**2170-11-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-11-4**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-11-5**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 85 (70 - 85) bpm
   BP: 163/98(113) {61/52(42) - 170/98(113)} mmHg
   RR: 20 (19 - 26) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
   Wgt (current): 83.5 kg (admission): 80 kg
   Height: 70 Inch
           Total In:
                                                                  3,986 mL
                                                                  1,555 mL
   PO:
                                                                  3,000 mL
                                                                    900 mL
   TF:
   IVF:
                                                                    706 mL
                                                                    305 mL
   Blood products:
                                                                    280 mL
                                                                    350 mL
   Total out:
                                                                  4,490 mL
                                                                    856 mL
   Urine:
                                                                  4,490 mL
                                                                    856 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -504 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///37/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered, Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   181 K/uL
   110 mg/dL
   1.3 mg/dL
   37 mEq/L
   3.8 mEq/L
   37 mg/dL
   97 mEq/L
   139 mEq/L
   27.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2170-10-31**]  03:33 AM
                             [**2170-10-31**]  07:08 AM
                             [**2170-11-1**]  04:33 AM
                             [**2170-11-2**]  03:49 AM
                             [**2170-11-2**]  10:23 PM
                             [**2170-11-3**]  03:35 AM
                             [**2170-11-4**]  03:04 AM
                             [**2170-11-4**]  12:25 PM
                             [**2170-11-4**]  11:32 PM
                             [**2170-11-5**]  05:23 AM
   WBC
   8.0
   10.7
   8.7
   17.8
   14.2
   8.1
   7.5
   Hct
   24.2
   24.9
   25.5
   27.4
   26.0
   22.8
   22.7
   24.0
   27.0
   Plt
   [**Telephone/Fax (3) 9854**]
   181
   Cr
   1.5
   1.5
   1.5
   1.4
   1.5
   1.3
   TCO2
   31
   Glucose
   119
   119
   127
   118
   129
   110
   Other labs: PT / PTT / INR:19.5/36.8/1.8, ALT / AST:15/20, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:91.2 %, Lymph:5.0 %, Mono:3.6 %,
   Eos:0.2 %, LDH:182 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY:  Secondary to chronic steroid use, age.
   Skin care protocol.
 DELIRIUM / CONFUSION:  Now awake, alert and fully oriented.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Sitting up in chair,
   comfortable with good sats on nasal cannula.  Moderately strong cough,
   able to cough up secretions.  Completing coruse of meropenim given
   resistant Klebsiella.  Stable for transfer to the medical floor.
 HYPOTENSION (NOT SHOCK);  Resolved.
 PNEUMONIA, OTHER:  Klebsiella on meropenim as above.
 ANEMIA:  Hct increased appropriately to transfusion.  Guaiac all
   stools. Follow [**Hospital1 **] hct.
 CONGESTIVE HEART FAILURE:  Has EF 15%.  Follow I/Os closely, goal
   negative [**Telephone/Fax (1) 9880**] ccs.
 ACTUE RENAL FAILURE:  Secondary to volume depletion and hypotension
   in setting of infection.  Improving.
 ADRENAL INSUFFICIENCY:  Tapering stress dose steroids back to his
   home regimen.
 NUTRITION:  Low sodium, low fat diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-10-30**] 06:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2170-11-05 11:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Transfused 2 units PRBC
   -Hypokalemia --> got 40 meq in a.m., and 60 meq in p.m.  Ordered
   additional 20 meq IV potassium toward morning
   -changed lasix from gtt to 40 mg IV BID
   -Tigecycline and colistin sensitivitie still pending
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Vancomycin
   Diarrhea;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Cephalexin
   Unknown;
   IV Dye
   Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-2**] 08:19 AM
   Aztreonam - [**2170-11-3**] 10:30 AM
   Meropenem - [**2170-11-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-11-4**] 07:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-5**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 73 (70 - 80) bpm
   BP: 162/74(98) {61/52(42) - 170/84(104)} mmHg
   RR: 23 (19 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 83.5 kg (admission): 80 kg
   Height: 70 Inch
           Total In:
                                                                  3,986 mL
                                                                  1,095 mL
   PO:
                                                                  3,000 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    706 mL
                                                                    205 mL
   Blood products:
                                                                    280 mL
                                                                    350 mL
   Total out:
                                                                  4,490 mL
                                                                    856 mL
   Urine:
                                                                  4,490 mL
                                                                    856 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -504 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   Gen: alert and oriented x3, sitting comfortably in chair
   Lungs: diffuse rhonchi. Good air movement. Normal respiratory effort
   CV: regular rate and rhythm, II/VI systolic murmur
   Abdomen: BS+, soft, non-tender.
   Ext: No C/C/E. WWP.
   Labs / Radiology
   181 K/uL
   8.3 g/dL
   110 mg/dL
   1.3 mg/dL
   37 mEq/L
   3.8 mEq/L
   37 mg/dL
   97 mEq/L
   139 mEq/L
   27.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2170-10-31**]  03:33 AM
                             [**2170-10-31**]  07:08 AM
                             [**2170-11-1**]  04:33 AM
                             [**2170-11-2**]  03:49 AM
                             [**2170-11-2**]  10:23 PM
                             [**2170-11-3**]  03:35 AM
                             [**2170-11-4**]  03:04 AM
                             [**2170-11-4**]  12:25 PM
                             [**2170-11-4**]  11:32 PM
                             [**2170-11-5**]  05:23 AM
   WBC
   8.0
   10.7
   8.7
   17.8
   14.2
   8.1
   7.5
   Hct
   24.2
   24.9
   25.5
   27.4
   26.0
   22.8
   22.7
   24.0
   27.0
   Plt
   [**Telephone/Fax (3) 9854**]
   181
   Cr
   1.5
   1.5
   1.5
   1.4
   1.5
   1.3
   TCO2
   31
   Glucose
   119
   119
   127
   118
   129
   110
   Other labs: PT / PTT / INR:19.5/36.8/1.8, ALT / AST:15/20, Alk Phos / T
   Bili:62/0.5, Differential-Neuts:91.2 %, Lymph:5.0 %, Mono:3.6 %,
   Eos:0.2 %, LDH:182 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   ASSESSMENT AND PLAN:
   Mr. [**Known lastname **] is a 75 year-old gentleman with systolic CHF (EF 15-25%) s/p
   ICD, a-fib s/p DCCV x2 and AVN ablation, hx PE on Coumadin,who presents
   with respiratory distress, fevers and cough due to MDR-klebsiella
   pneumonia potentially perpetuating CHF exacerbation.
   1. MULTIDRUG RESISTANT KLEBSIELLA PNA
 Sputum grew Klebsiella
   sensitive only to meropenem and amikacin.
   --- continue MEROPENEM for 14-day course
   --- suctioning PRN
   --- follow-up pending cultures and sensitivities
   --- chest PT
   2. HYPERTENSION
 Now hypertensive.  Have been holding home metoprolol.
   --- on home furosemide, losartan
   --- restart metoprolol. Use metoprolol tartrate for now. Transition to
   daily dosing of metoprolol succinate tomorrow if patient
s tolerates
   metoprolol tartrate today.
   3. ADRENAL INSUFFICIENCY- chronic problem, for which he is on
   prednisone as outpatient.
   --- currently on hydrocortisone 50 mg q8 h IV. Taper steroids to 25 mg
   PO BID.
   --- monitor and replete electrolytes
   4. SUPRATHERAPEUTIC INR
 Currently subtherapeutic
   -- Restart Coumadin.
   -- will have to modify anticoagulation regimen given poor nutritional
   status
   5. CHF- EF 25% on most recent TTE, holding BB due to hypotension and
   use of pressor.
   --- continue metoprolol, losartan, lipitor, digoxin
   6. ANEMIA
 Patient has acute on chronic anemia. Concern is for acute
   blood loss. Had appropriate Hct increase to unit of PRBC receive
   overnight.
   --- active T+S
   --- transfuse to Hct goal 25
   --- trend Hct
   --- guaiac stool
   ICU Care
   Nutrition: low sodium (<2gm) diet
   Glycemic Control:
   Lines:
   PICC Line - [**2170-10-30**] 06:22 PM
   Prophylaxis:
   DVT: heparin SC until therapeutic on Coumadin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (no compression or CPR, although has ICD), short-term
   intubation okay but long-term intubation not okay as confirmed w/
   daughter who is HCP
   Disposition: [**Name2 (NI) 9881**] to floor